US07126015B2
Synthesis of hexahydro-furo[2,3-b]furan-3-ol (7.1 and 7.2):
To a stirred solution of compound (I.5, 0.011 mol, 2.4 g, syn/anti mixture) in isopropanol (20 ml), potassium tert-butoxide (0.0132 mol, 1.5 g) was added portionwise over 30 minutes at room temperature. The basic solution was transferred to an addition funnel and added dropwise over 10 minutes to a cooled (0° C.) vigorously stirred mixture of concentrated (37%) hydrochloric acid (0.0275 mol, 2.3 ml) in isopropanol (20 ml). The reaction mixture was stirred for 2 hours at room temperature, then triethylamine (0.022 mol, 2.2 g) was added dropwise causing Et3N.HCl salts to precipitate. The reaction mixture was diluted with ethyl acetate (50 ml) and filtered to remove the salts. The solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate (50 ml) causing more Et3N.HCl salts to precipitate. The salts were removed by filtration and the solvent was evaporated under reduced pressure. The residual oil was further purified by silica gel plug filtration with ethyl acetate as eluent to afford a mixture of compounds (7.1/7.2, 1.03 g, yield=72%) in a ratio of 78/22 (determined by 1H NMR). Analytical samples of the pure compounds (7.1, Rf7.1=0.27) and (7.2, Rf7.2=0.15) were obtained by means of silica gel chromatography using ethyl acetate as the solvent.

reactant | potassium tert-butoxide | 0.0132 mol, 1.5 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 0.0275 mol, 2.3 ml | Cl | ClH
reactant | triethylamine | 0.022 mol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | Et3N.HCl | N(CC)(CC)CC.Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | hexahydro-furo[2,3-b]furan-3-ol | yield=72% | O1CC(C2C1OCC2)O | C6H10O3
